US08614221B2
7-Amino-2-tert-butylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde [CCXXXVII]
A solution of (7-amino-2-tert-butylpyrazolo[1,5-a]pyrimidin-6-yl)methanol (380 mg, 1.73 mmol, 1 eq.) and MnO2 (1.5 g, 17.25 mmol, 10 eq.) in THF (6 mL) and CHCl3 (12 ml) was stirred for about 36 h at 25° C. under nitrogen. MnO2 was filtered and washed with 15% MeOH in CHCl3 (˜100 mL) and 30% MeOH in CHCl3 (˜100 mL) until no additional product was observed through analysis of the filtrates by TLC. The filtrates were combined and concentrated under vacuum to give Compound [CCXXXVII] as a yellow solid: LCMS (m/e) 219 (M+H); 1H NMR (300 MHz, DMSO, δ, ppm) 9.87 (s, 1H), 8.99-8.82 (s, 2H), 8.50 (s, 1H), 6.52 (s, 1H), 1.38 (s, 9H).

reactant | (7-amino-2-tert-butylpyrazolo[1,5-a]pyrimidin-6-yl)methanol | 1.73 mmol, 380 mg, 1 eq. | NC1=C(C=NC=2N1N=C(C2)C(C)(C)C)CO | C11H16N4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | CHCl3 | 12 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 17.25 mmol, 1.5 g, 10 eq. | O=[Mn]=O
product | 7-Amino-2-tert-butylpyrazolo[1,5-a]pyrimidine-6-carbaldehyde | NC1=C(C=NC=2N1N=C(C2)C(C)(C)C)C=O | C11H14N4O
